US06921763B2
1-Bromo-4-(bromomethyl)benzene (2.50 g, 10 mmol), 1H-benzo[d]imidazole (1.181 g, 10.0 mmol), potassium hydroxide (0.561 g, 10.0 mmol), potassium carbonate (1.382 g, 10.0 mmol) and tetrabutylammonium bromide (0.161 g, 0.5 mmol) was mixed in xylenes (60 mL). The reaction mixture was heated at 139° C. overnight. The hot reaction mixture was filtered and washed with hot xylenes. The solvent was evaporated and the residue was purified by flash column chromatography using dichloromethane/methanol (95:5 to 80:20) as mobile phase to give 1-(4-Bromobenzyl)-1H-benzo[d]imidazole (1.193 g, 42%). 1H NMR (CDCl3) δ 5.31 (s, 2H), 7.05 (m, 2H), 7.28 (m, 3H), 7.46 (m, 2H), 7.82 (m, 1H), 7.95 (s, 1H).

reactant | 1-Bromo-4-(bromomethyl)benzene | 10 mmol, 2.50 g | BrC1=CC=C(C=C1)CBr | C7H6Br2
reactant | 1H-benzo[d]imidazole | 10.0 mmol, 1.181 g | N1C=NC2=C1C=CC=C2 | C7H6N2
reactant | potassium hydroxide | 10.0 mmol, 0.561 g | [OH-].[K+]
reactant | potassium carbonate | 10.0 mmol, 1.382 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium bromide | 0.5 mmol, 0.161 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(4-Bromobenzyl)-1H-benzo[d]imidazole | 1.193 g, 42% | BrC1=CC=C(CN2C=NC3=C2C=CC=C3)C=C1 | C14H11BrN2
